US04886809
5.3 Grams of 6-[4-(2-phenyl-2-hydroxyiminoethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril, 1.91 ml of acetic anhydride and 5.64 ml of triethylamine were dissolved in 60 ml of methylene chloride, and the resulting solution was stirred overnight at room temperature. After the reaction was completed, the reaction mixture was poured into water, and was made alkaline by adding sodium carbonate, then this mixture was extracted with methylene chloride. The methylene chloride extract was dried, then the solvent was removed by evaporation, and the residue was converted into an oxalate by stirring with oxalic acid in acetone. The oxalate was recrystallized from ethanol-water to yield 5.28 g of 6-[4-(2-phenyl-2-acetoxyiminoethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril.oxalate.monohydrate.

reactant | 6-[4-(2-phenyl-2-hydroxyiminoethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C(CN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)=NO | C22H24N4O3
reactant | acetic anhydride | 1.91 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 5.64 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-[4-(2-phenyl-2-acetoxyiminoethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | 5.28 g | C1(=CC=CC=C1)C(CN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)=NOC(C)=O | C24H26N4O4
